US05614527
A mixture of 1.42 g of (tetrahydro-2-furanyl)methyl methanesulfonate, 5 ml of ethylendiamine, 1.53 g of potassium carbonate, anhydrous, and 0.1 g of sodium iodide was stirred at 60° C. for 4 hours. After the completion of reaction, ethyl acetate was added, and insolubles were then removed by filtration. The filtrate was concentrated under a reduced pressure, and the resultant residue was poured into 10 ml of a 6N aqueous solution of sodium hydroxide, followed by extraction with 100 ml of methylene chloride. Next, the extract was dried over sodium sulfate, anhydrous, and then concentrated under a reduced pressure to obtain 1.2 g of N-[(tetrahydro-2-furanyl) methyl]ethylenediamine as a yellow oil.

reactant | (tetrahydro-2-furanyl)methyl methanesulfonate | 1.42 g | CS(=O)(=O)OCC1OCCC1 | C6H12O4S
reactant | ethylendiamine | 5 ml | C(CN)N | C2H8N2
reactant | potassium carbonate, anhydrous | 1.53 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | sodium iodide | 0.1 g | [I-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[(tetrahydro-2-furanyl) methyl]ethylenediamine | 1.2 g | O1C(CCC1)CNCCN | C7H16N2O
